US04272550
Stir a sample of crude 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetonitrile, prepared as described in Example 8a, with ether for 30 minutes. Filter the solid and recrystallize from ether to obtain as a white solid, 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetamide, m.p. 180°-182° C.

reactant | 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetonitrile | FC(C(C(F)(F)F)(O)C1=CC(=C(OCC#N)C(=C1)C)C)(F)F | C13H11F6NO2
reactant | ether | CCOCC | C4H10O
product | 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetamide | FC(C(C(F)(F)F)(O)C1=CC(=C(OCC(=O)N)C(=C1)C)C)(F)F | C13H13F6NO3
